US06538010B1
5-iodo-3-nitro-2-aminopyridine (5.6 g, 21.1 mmol) and concentrated HBr (60 mL) were stirred at room temperature for ten minutes. Sodium nitrite (11.7 g, 170 mmol) was then slowly added followed by CuBr (3.9 g, 27.2 mmol). Stirring continued overnight. The mixture was poured into 1:1 NH4OH:H2O, extracted with ethyl acetate, dried over sodium sulfate, then concentrated. The crude residue was purified by flash chromatography using 9:1 hexane:ethyl acetate to yield 5-iodo-3-nitro-2-bromopyridine (1.618 g, 23%) as a colorless solid.

reactant | 5-iodo-3-nitro-2-aminopyridine | 21.1 mmol, 5.6 g | IC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4IN3O2
reactant | Sodium nitrite | 170 mmol, 11.7 g | N(=O)[O-].[Na+]
reactant | NH4OH | [NH4+].[OH-]
reactant | HBr | 60 mL | Br | BrH
product | 5-iodo-3-nitro-2-bromopyridine | 1.618 g, 23% | IC=1C=C(C(=NC1)Br)[N+](=O)[O-] | C5H2BrIN2O2
